US07683064B2
6-Dimethylamino-3,4-dihydro-2H-isoquinolin-1-one (762 mg, 4.01 mmol), cuprous iodide (153 mg, 0.802 mmol) and potassium carbonate (554 mg, 4.01 mmol) were deposited in a sealed type vessel. 6 mL DMSO and 1,3-dibromobenzene (1.89 g, 8.02 mmol) were added. Argon was bubbled through the mixture for 2 minutes and the lid was tightly closed. This was heated at 150° C. for 24 hours. Cuprous iodide (153 mg, 0.802 mmol) was added and the mixture was heated at 150° C. for an additional 24 hours. This was diluted with dichoromethane and filtered through a pad of celite. The filtrate was partitioned between dichloromethane and 5% aq. ammonium hydroxide. The dichloromethane layer was dried over anhydrous magnesium sulfate, concentrated in vacuo, and purified by flash chromatography (gradient elution 25 to 100% ethyl acetate/hexanes) to yield 2-(3-Bromo-phenyl)-6-dimethylamino-3,4-dihydro-2H-isoquinolin-1-one (939 mg, 2.72 mmol). MS (ESI) 345.0 (M+H)+.

reactant | 6-Dimethylamino-3,4-dihydro-2H-isoquinolin-1-one | 4.01 mmol, 762 mg | CN(C=1C=C2CCNC(C2=CC1)=O)C | C11H14N2O
reactant | potassium carbonate | 4.01 mmol, 554 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMSO | 6 mL | CS(=O)C | C2H6OS
reactant | 1,3-dibromobenzene | 8.02 mmol, 1.89 g | BrC1=CC(=CC=C1)Br | C6H4Br2
solvent | dichoromethane | ClCCl | CH2Cl2
product | 2-(3-Bromo-phenyl)-6-dimethylamino-3,4-dihydro-2H-isoquinolin-1-one | 2.72 mmol, 939 mg | BrC=1C=C(C=CC1)N1C(C2=CC=C(C=C2CC1)N(C)C)=O | C17H17BrN2O
